US08383827B2
A 250 mL round bottom flask flushed with N2 was charged with 2-chloro-5-iodo-pyridin-4-ylamine (1.00 g, 3.93 mmol), 5-ethynyl-nicotinic acid methyl ester (0.633 g, 3.93 mmol), copper(I) iodide (0.037 g, 0.196 mmol), bis(triphenylphosphine)palladium(II) chloride (0.138 g, 0.196 mmol) and triethyl amine (50 mL). The reaction mixture was stirred at 100° C. for 3 h. The reaction was cooled to room temperature, filtered and the precipitate washed thoroughly with ethyl acetate. The filtrate was washed with water twice. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford crude product 5-(4-amino-6-chloro-pyridin-3-ylethynyl)-nicotinic acid methyl ester as a brown solid which was taken onto next step without any purification. ESI-MS: m/z 288.0 (M+H)+

reactant | 2-chloro-5-iodo-pyridin-4-ylamine | 3.93 mmol, 1.00 g | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | 5-ethynyl-nicotinic acid methyl ester | 3.93 mmol, 0.633 g | COC(C1=CN=CC(=C1)C#C)=O | C9H7NO2
catalyst | copper(I) iodide | 0.196 mmol, 0.037 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.196 mmol, 0.138 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethyl amine | 50 mL | C(C)N(CC)CC | C6H15N
product | 5-(4-amino-6-chloro-pyridin-3-ylethynyl)-nicotinic acid methyl ester | COC(C1=CN=CC(=C1)C#CC=1C=NC(=CC1N)Cl)=O | C14H10ClN3O2
